US05185375
A solution of (±)-2-(3-nitrophenyl)cyclohexanone (1 g,4.5 mmol) and methyl isothiocyanate at 20° C. in tetrahydrofuran (15 ml) was treated with sodium hydride (120 mg, 5 mmol) added in one portion. The mixture was stirred vigorously. After 13 minutes, water (20 ml) was added and the mixture extracted with ethyl acetate (2×20ml). The combined organic extracts were dried over magnesium sulphate. Concentration in vacuo (30° C., 14 mmHg) afforded a crude oil (0.95 g) which was purified by flash chromatography over silica gel, eluting with toluene/acetone: 96/4 and trituration with equal portions of hexane and diethyl ether to give (±)-N-methyl-2-oxo-1-(3-nitrophenyl)-cyclohexanecarbothioamide (0.1 g, 0.35mmol) m.p. 128°-132° C.

reactant | (±)-2-(3-nitrophenyl)cyclohexanone | 4.5 mmol, 1 g | [N+](=O)([O-])C=1C=C(C=CC1)C1C(CCCC1)=O | C12H13NO3
reactant | methyl isothiocyanate | CN=C=S | C2H3NS
reactant | sodium hydride | 5 mmol, 120 mg | [H-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | (±)-N-methyl-2-oxo-1-(3-nitrophenyl)-cyclohexanecarbothioamide | 0.35mmol, 0.1 g | CNC(=S)C1(C(CCCC1)=O)C1=CC(=CC=C1)[N+](=O)[O-] | C14H16N2O3S
